US05194655
2-Propargyloxycarbonyloxyethyl Methacrylate
A flask equipped with a stirrer, thermometer, nitrogen gas tube and reflux condenser was charged with 13.0 g of 2-hydroxyethyl methacrylate and 11.5 g of trimethylamine in 50.0 g of methylene chloride. To the flask was added 13.0 g of propargyl chloroformate dropwise over one hour. The mixture was allowed to react for 6 hours at 30° C. After the reaction, the mixture was treated with methylene chloride-water mixture. The organic phase was separated and dried over magnesium sulfate. After filtering, the filtrate was evaporated in a rotary evaporator. The resulting residue was applied on a 200 mesh silica gel column and developed with ethyl acetate-hexane mixture. The title compound was obtained as colorless liquid. Yield was 73.6% of theory.

reactant | 2-hydroxyethyl methacrylate | 13.0 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | trimethylamine | 11.5 g | CN(C)C | C3H9N
reactant | propargyl chloroformate | 13.0 g | ClC(=O)OCC#C | C4H3ClO2
reactant | methylene chloride water | C(Cl)Cl.O
solvent | methylene chloride | 50.0 g | C(Cl)Cl | CH2Cl2
product | 2-Propargyloxycarbonyloxyethyl Methacrylate | Yield was 73.6% | C(C(=C)C)(=O)OCCOC(=O)OCC#C | C10H12O5
